US09255090B2
Synthesis of (±)-(trans)-2-Pyridin-2-yl-cyclopropanecarboxylic acid (C9H9NO2, MW=163.06)
To a solution of (±)-(trans)-2-pyridin-2-yl-cyclopropanecarboxylic acid methoxy-methyl-amide (950 mg, 4.61 mmol, 1 eq) in Et2O (30 mL), potassium tert-butoxide (569 mg, 5.07 mmol, 1.1 eq) and H2O (0.4 mL) were added. The mixture was stirred at r.t. for 18 hours. Potassium tert-butoxide (1.86 g, 16.6 mmol, 3.6 eq.) was added again. The mixture was stirred at r.t. for 24 hours. The reaction mixture was concentrated in vacuo. The residue was dissolved in water (5 mL) and formic acid (3 mL). The solution was directly purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions, extremely polar method) and concentrated in vacuo to give the title compound as a white solid.

reactant | (±)-(trans)-2-pyridin-2-yl-cyclopropanecarboxylic acid methoxy-methyl-amide | 4.61 mmol, 950 mg, 1 eq | CON(C(=O)[C@H]1[C@@H](C1)C1=NC=CC=C1)C | C11H14N2O2
reactant | potassium tert-butoxide | 5.07 mmol, 569 mg, 1.1 eq | CC(C)([O-])C.[K+]
reactant | H2O | 0.4 mL | O | H2O
reactant | Potassium tert-butoxide | 16.6 mmol, 1.86 g, 3.6 eq. | CC(C)([O-])C.[K+]
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | (±)-(trans)-2-Pyridin-2-yl-cyclopropanecarboxylic acid | N1=C(C=CC=C1)[C@H]1[C@@H](C1)C(=O)O | C9H9NO2
